Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was sent here"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ ___ sophomore at ___, recently 
transferred from ___, with past psychiatric history of 
anxiety and depression and no prior hospitalizations, sectioned 
from ___ Health for recent suicide attempt by overdose on 
Belsomra in the setting of school-related stress. 

About two weeks ago, she took 20 pills of 15mg suvorexant after 
2 consecutive rejections from dance auditions. Does not remember 
much about event. Opened rejection email around midnight after 
already having been rejected from 1 dance piece, felt "mad" and 
upset. Woke up once at 7:00AM when her alarm went off, felt 
"heavy" and continued sleeping until her 11:00AM class, which 
she attended. Denied regret that attempt had not worked. States 
in the past she has been able to deal with rejection better, she 
is overall enjoying her transfer to ___ and liking her 
extracurriculars perhaps to the detriment of her academic 
performance. Likes students better than at ___. Wants 
to get back to school quickly and to perform in dance recital 
this next weekend. 

Patient states that she does not feel she needs to be in the 
hospital and that hospitalization will not be beneficial for her 
mental health. States her anxiety, depression, and suicidal 
ideation are not that bad. 

ED Course: Calm and in good behavioral control. No restraints. 
No medications given. 

Per ___ MD's ___ initial ED consult note: ___ 
___ is a ___ yo single, ___ female, who is currently a 
sophomore at ___, with a past psychiatric history of anxiety and 
major depressive disorder and with one prior suicide attempt 2 
weeks ago and no prior psychiatric hospitalization, who
presents on a ___ from ___ 
concern for recent suicidal ideation, and inability to contract 
for safety in the setting of multiple recent stressors during 
initial evaluation at ___. Psychiatry was 
consulted for safety assessment.

Patient reports that she was sent here from ___ 
___, after arriving for her per her first 
appointment. She thinks she was sent in because they were 
"concerned about my history". She reports that  she feels they 
are particularly concerned about her report of her recent
overdose attempt approximately 2 weeks ago. Patient reports that 
she had a addition for dance group, and was the only person who 
was cut from the group.  She reports after this feeling 
discouraged, and increasingly angry given that she was the only 
person who did not make it.  She then reports that her thoughts
turned to "self-destructive". She reports that while she has a 
roommate, she was in her room alone, feeling angry, and an 
impulsive moment she took approximately twenty 50 mg tablets of 
Belsomla, sleeping medication that she had from ___.  She 
reports that she took this in attempt to die. She notes,
however, that she knew that this was "not enough to kill me".  
After this, she notes she did not call or tell any just went to 
sleep.  When she woke up she states she did not feel any 
particular way that she had lived.  She reports that she slept 
through her classes in the morning, however then woke up and 
went
to class.  She notes that this was not planned, and she did not 
to suicide  note at that time.  She notes after this event she 
just "felt like normal". 

Patient reports that she went to ___ today to set up 
outpatient care, she reports that she recently transferred from 
___ to ___ in ___, where she had previously seen 
a psychiatrist and therapist.  She reports that since she was 
running a sleeping medication, and having worsening insomnia and
anxiety which was keeping her up at night, that she scheduled an 
appointment with the ___.  When we 
discussed why she had been guarded and unable to discuss safety 
planning, and how she would remain safe over the weekend, she 
reports that she was "feeling overwhelmed".  She notes that she 
had time to think, and "knows she can remain safe".  She cannot
identify any local supports at this time, and it currently has 
no other outpatient providers.

During our initial the patient reports her mood is "feeling 
quite good".  She states that she feels that everyone is 
"overreacting".  She is denying suicidal ideation, and notes 
that the last time she was suicidal was about 2 weeks ago during 
the above-described attempt.  She denies any difficulty with 
concentration, however does note some stress with classes as she 
feels they are harder than at her prior college.  She notes at 
this time, her primary worry is her grades and her chemistry, 
and she was worried today that she has been receiving up bad 
grade in that class, and was considering dropping out by this 
coming ___.  She states that this is "not as distress and" 
is the rejection of the dance crew, however continues to have 
difficulty planning if she should become distressed as she did 
in the past, how she may keep herself safe. She does state that 
she would reach out to the behavioral health services if this
happens, however.  

She denies any changes in her appetite, concentration, 
motivation, or interest.  She states that she "does not feel 
depressed", and notes frustration about being at the hospital at 
this time, as well as concern about the cost of a potential 
hospital stay. We discussed disposition options, patient 
preferred to return to school.  She understands, however 
concerned given her recent suicide attempt, and the need for 
possible continued evaluation.  

The patient reports significant ongoing anxiety, often related 
to her studies, and this is most prominent at night where she 
has racing thoughts and has significant difficulty falling 
asleep. She reports that this is somewhat improved with her 
sleep medication she has run since suicide attempt.

Patient denies any current or past periods of decreased need for 
sleep, grandiosity, increased impulsive behavior, or increased 
goal-directed behavior.

Patient denies any history of auditory or visual hallucinations, 
paranoia or ideas of reference.  She reports a history of 
physical abuse as a child, she denies any history of nightmares, 
or reexperiencing the trauma, or feelings of hypervigilance. 

Patient denies any history of disordered eating behaviors.

Per collateral from BU:
___ yr old female sophomore, psychology/premed transfer student 
from ___ presenting reporting depression, anxiety, insomnia, 
and recent SI/suicide attempt. Presents for initial appointment 
requesting sleeping medication. Notes prescribed Belsomra from 
psychiatrist in ___ past ___. Last took a week ago, reports 
may have more in her drawer but she is not sure. Reports 2 week
ago overdosed on Belsomra in suicide attempt. "Didn't do well in 
my dance audition and that's why I took it". Overdosed on 
unclear amount of prescription (perhaps 20 pills). She was not 
sure it would kill her, but did take it in the moment hoping to 
die. Reports previous cutting while wanting to die in the ___, 
and history of combining alcohol and sleeping medication in the 
___. She reports chronic SI since ___, but changed recently 
reporting " recently I don't feel suicidal every day every 
moment, but when it comes I tend to take action". Notes SI used 
to be more random, but now its more "predictable", gives 
examples of failing at auditions, doing badly in classes. 
Describes actions as impulsive when they do occur. Reports 
yesterday received below average grade in organic chemistry- 
thinks she might want to drop the class and has to decide by 
___.

Reports making these decisions are hard for her. Reports was so 
upset/anxious last night that could not sleep. She denies local 
supports. Reports has not told her parents about her difficulty- 
acting like everything is ok. Reports history of HI toward 
father, and male in high school. During safety  evaluation she 
is vague- answering if she could be safe for the weekend 
reports, "I don't know". Reports her answer to "everything" is 
"I don't know". Student is not known to ___, and presents as 
vague and hesitant. Asked about what would stop her from suicide 
this weekend and she reports her desire to eat "sushi", unable 
to identify other protective factors. She does not identify 
local supports, and is not agreeable to involving her family.

Considering these risk factors and unable to identify adequate 
protective factors, significant concern about her ability to 
maintain her safety, so referred to ___ for further 
evaluation."   

ROS:
 -Psychiatric: As per HPI. Endorsed symptoms of depression and
anxiety. Denied symptoms of mania, psychosis, PTSD. 
 -General: Denies any cough, congestion, fevers, chills.  Denies
any changes in urination.  Denies any changes in bowel habits,
abdominal pain, nausea, vomiting, constipation, diarrhea.  

COLLATERAL:
I spoke to the patient's Mother in ___ (___) 
with ___ interpreter on the line. She reports that they 
have been talking recently, and she hasbeen smiling and 
enjoyment in her current time at ___. She seems much better than 
how she seemed at ___. She has been worried about 6 
people sharing a bathroom, and food being far from her dorm, but 
she was saying that she was getting used to these changes. Feels 
like she has been getting used to moving here and her new life 
at ___. She has reported she is enjoying it. About a month since 
she started ___, and during this time period, Mom was not aware 
of any concern about her want to hurt or kill herself. Mom last 
talked to her 2
days ago and since this time she did not feel that ___ was 
having a hard time or struggling. She reports that she would be 
able to call her ___ times over the weekend to check in. Mom 
feels she would be safe to return to school tonight at this 
time. Notably the patient has been telling her that she has been 
busy with dance practice and so she only calls one time per 
week."

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: anxiety, depression
- Hospitalizations: none
- Partial hospitalizations:
- Psychiatrist: none. Last followed at ___ prior to
transfer.
- Therapist: none. Last followed at ___ prior to
transfer.
- Medication trials: sertraline (epistaxis), Belsomra/suvorexant
- Suicide attempts: overdose on Belsomra. see HPI. 
- Self-injurious behavior: reports history of biting hand and 
cutting
- Harm to others: denies. past HI toward father and toward male
high school classmate that she had loved. no violence ever. 
- Trauma: Physical abuse by father
- Access to weapons: denies

PAST MEDICAL HISTORY:
PCP: ___ plans to follow at ___ student ___
Denies history of head trauma, seizure.

Increased intraocular pressure, not on medication
Near-sightedness
 
MEDICATIONS:
None - last on Belsomra 15mg po qhs over 1 week ago

ALLERGIES: 
NKDA      
 
 
Social History:
SUBSTANCE USE HISTORY:
- Alcohol: last drink in ___ occasional beer.  
- Tobacco: denies
- Other Drugs: denies
- Caffeine: denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: denies
- Suicide Attempts/Completed Suicides: denies
- Substance Use Disorders: denies
 
Physical Exam:
VS: T 98.0, HR 84, BP 104/69, RR 16, 100% O2 Sat on RA
 
Physical Exam: 
GEN: Young Asian woman, no acute distress, wearing hospital gown 

HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
Anicteric sclera. 
CV:  Fast rate, regular rhythm, normal S1, S2. No
murmurs/rubs/gallops. 2+ radial pulse. 
RESP: Non-labored. Clear to auscultation bilaterally. No
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral
edema.
SKIN: No rashes or lesions noted. Scattered closed comedones. 
 
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 5mm to 2mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 2+ and symmetrical biceps, brachioradialis, triceps
patellar, 1+ Achilles tendon
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings.
Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal
stride and arm-swing. No ataxia noted. 
- Abnormal movements:  No tremor or abnormal movements
appreciated.
 
Cognition: Per ___ on ___: 
  "- Wakefulness/alertness: awake and alert
  -  Attention: can do MOYB/DOWB
  - Orientation: oriented to person, time, place, situation
  - Memory: ___ registration, ___ recall after 5 ___
grossly intact
  - Fund of knowledge: consistent recall portion with education;
intact to last 3 presidents 
  - Calculations: $1.75 = "7 quarters"
  - Abstraction: Things other people have looked better than
yours
  - Proverb: interprets "don't judge a book by its cover" as
"things other people have looked better than yours"
  - Speech: soft volume, slow rate, speaks in short sentences.
Normal rhythm and prosody. 
  - Language: fluent ___, speaks with a ___ accent."
 
Mental Status:
- Appearance: Young Asian woman appearing stated age, wearing
hospital gown, scattered comedones, 
- Behavior: Sitting upright, decreased eye contact. Picking at
face and hair, fidgeting. 
- Attitude: Cooperative, engaged. Ambivalent. 
- Mood: "fine"
- Affect: slightly mood-incongruent, dysthymic and tearful when
discussing dance rejection, constrictive 
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content: ruminative on discharge
  Safety: Denies SI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Not appearing to be attending to
internal stimuli
  Insight / Judgment: Limited / Poor

 
Pertinent Results:
GLUCOSE-83 UREA N-11 CREAT-0.6 SODIUM-139 POTASSIUM-3.9 
CHLORIDE-107 TOTAL CO2-22 ANION GAP-10
estGFR-Using this
ASA-NEG ETHANOL-NEG ACETMNPHN-NEG tricyclic-NEG
___ 02:35PM   WBC-6.4 RBC-3.90 HGB-12.1 HCT-36.5 MCV-94 
MCH-31.0 MCHC-33.2 RDW-11.9 RDWSD-40.6
NEUTS-67.9 ___ MONOS-6.9 EOS-0.3* BASOS-0.3 IM ___ 
AbsNeut-4.32 AbsLymp-1.55 AbsMono-0.44 AbsEos-0.02* AbsBaso-0.02
PLT COUNT-224

 URINE
UCG-NEGATIVE
bnzodzpn-NEG barbitrt-NEG opiates-NEG cocaine-NEG amphetmn-NEG 
oxycodn-NEG mthdone-NEG
COLOR-Yellow APPEAR-Clear SP ___
BLOOD-NEG NITRITE-NEG PROTEIN-TR* GLUCOSE-NEG KETONE-TR* 
BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-NEG
RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE EPI-1
MUCOUS-FEW*
 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She also filed a 3 day notice, which 
expired on ___ (the day of discharge).  She was placed on 
q15 minute checks status on admission and remained on that level 
of observation throughout while being unit restricted. She did 
not require physical or chemical restraints during his 
hospitalization. 

2. PSYCHIATRIC:

Ms. ___ is a ___ ___ sophomore at ___, recently 
transferred from ___, with past psychiatric history of 
anxiety and depression, sectioned from ___ Student Health for 
recent suicide attempt by overdose on Belsomra and concern for 
ongoing suicidality in the setting of school-related stress. 

On admission, patient endorsed multiple recent stressors 
including college transfer, difficult organic chemistry course, 
and rejection from dance team. Collateral concerning for limited 
outreach, as patient's primary support, mother in ___, knew 
little of daughter's significant emotional distress and 
suicidality, and patient confirms that she would be unlikely to 
tell mother or friends about her mental health or suicidal 
ideation. Patient did not seek immediate medical or social help 
after her suicide attempt on ___, and did not seem to 
recognize the significance of her very impulsive decision. If 
reported ingestion of 20 tabs of 50mg suvorexant is accurate, 
this would be 50x the maximum recommended daily dose; however, 
patient initially stated confidence in belief that this dose 
would not kill her. Of note, patient endorsed prior history of 
self-injurious behavior (hitting the wall), abuse (father 
physically and emotionally abusice), and violent outbursts 
concerning for poor affect regulation, but denied past manic 
episodes. Denied current suicidal ideation, and psychosis. She 
also stated that she has a period of almost daily suicidal 
ideation ___ years ago in addition to poor concentration, 
insomnia, fatigue, and depressed mood. Additionally, she noted 
that she has always had difficulty with relationship building 
and finds human interactions very tiring. Also endorses 
difficulty with math since high school, hand-eye coordination 
(although this could be due to her vision problems), 
hypersensitivity to female voices, and some obsessive 
tendencies. However, denied early childhood difficulty in school 
and tantrums. 

Psychological testing (___) was significant for several notable 
results. First, in the reliability/validity scale, patient had 
very low score in category of denial of symptoms (i.e. she does 
not deny), and slightly above average in the misinterpretation 
category, which could be due to language barriers. However, her 
results were deemed to be interpretable. Had above average 
scores in the majority of clinical, treatment, and pathology 
scales, consistent with her lack of denial. Specifically, she 
had high anxiety score, high borderline scores (specifically in 
categories of self-harm, emotional lability, and lack of 
identity), and high aggression score (specifically in categories 
of homicidal ideation and physical aggression, but not in verbal 
aggression). In the interpersonal scale, she scored very below 
average in areas of assertiveness and social extroversion (i.e. 
she is very passive, submissive, introverted, and isolative). 
Please see note of Dr. ___ psychologist, for 
further details.

Differential diagnosis includes generalized anxiety 
disorder/unspecified anxiety disorder, borderline personality 
disorder vs. less likely major depressive disorder without 
psychotic features, adjustment disorder with depressed and 
anxious features, bipolar disorder, dysthymia, PTSD. GAD or 
otherwise unspecified anxiety disorder likely given patient's 
report of chronic anxiety, insomnia, fatigue, but does not quite 
meet criteria for GAD. Psychological testing supported 
predominance of anxiety rather than mood symptoms.Has cluster B 
traits, specifically borderline, including fear of rejection, 
impulsivity, dramatic emotional reactions, history of 
self-harm/suicidality. Furthermore, psychological testing was 
very suggestive of borderline personality disorder. Adjustment 
disorder with mixed anxiety and depression possible given recent 
transfer to ___ in ___. Despite recent suicide attempt and 
difficulty with sleep, she does not meet criteria for MDD 
currently; however, patient's reported past depressive episode 
meets criteria for MDD. 

Based on her statements, has not had a manic episode and thus 
does not meet criteria for bipolar I/II, but her previous 
behaviors (self injury, violent outbursts, trauma) as well as hx 
of mood disorder with early onset increase her risk for Bipolar 
diathesis. Dysthymia possible given patient has had "depressed 
feelings" for at least ___ year and has had chronic insomnia, but 
it seems as if patient's suicide attempt was very impulsive and 
patient had not been depressed recently. Less likely PTSD given 
no report of intrusive thoughts, avoidance
behavior, but some sxs present including insomnia, angry 
outbursts, and also history of trauma (father). 

Considering patient's past learning difficulties, dislike of 
people/impaired social interactions, poor visuo-spatial learning 
abilities, below average interpersonal skills on psychological 
testing, and poor hand eye coordination, differential includes 
specific learning disorder (likely non-verbal) vs. previously 
reported diagnosis of autism spectrum disorder. Cognitive 
exam/MOCA revealed difficulties with language, abstraction, and 
delayed recall for total score of ___, consistent with 
slightly abnormal cognition. However, language difficulties may 
be due to fact that ___ is patient's second language. 

These symptoms/signs are somewhat possibly due autism spectrum 
disorder, however patient appears to be sociable on exam and 
able to interpret both verbal and non-verbal information 
appropriately, is flexible regarding routines, and has no 
history of chronic obsessions/repetitive behavior (other than 
teeth-brushing routine) or exaggerated reactions to deviations 
from routines. Additionally, it does not seem that patient's 
impairments developed in early childhood, but rather, in 
teenagehood. However, patient does endorse hypersensitivity to 
pitch of female voices, and ___ was suggestive of ASD. 
Neuropsychological testing as an outpatient will be crucial to 
further diagnostic work-up and consideration of learning 
accommodations at ___.

Lab work was unremarkable, including negative toxicology 
screens. No clinical suspicion for secondary etiology due to 
medical causes or substance use. 

Patient was started on escitalopram 5 mg daily while inpatient 
for mood symptoms and anxiety, which was switched to QHS after 
patient reported insomnia at night and sedation during the day. 
Was offered ramelteon PRN for sleeping with good effect. She 
continued to deny current suicidal ideation and endorsed 
improved mood because she was accepted to another dance team. 
She appeared more help-accepting and stated her intention to 
call behavioral health in the setting of future suicidal 
ideation.  

On discharge, she endorsed "good" mood, appeared stable and was 
denying further suicidal ideation. She noted that in the future, 
she would not be inclined to kill herself because she has 
"things [she] needs to do", including laundry and schoolwork, 
positive goals for the future (continuing her studies, building 
healthy relationships in which she can be assertive and 
independent), family and friends would be concerned, and she 
would not want to be hospitalized again. Patient was able to 
engage in affective safety planning and stated that in the 
setting of future suicidal ideation, she would call her mom, 
talk to a friend, call ___, call ___, or 
go to the emergency department. She also expressed her intension 
to continue to follow up with psychiatric care as outpatient. 

3. SUBSTANCE USE DISORDERS:
No active concerns during hospitalization

4. MEDICAL
No active concerns during hospitalization

5. PSYCHOSOCIAL

#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Though patient often spent time 
by herself, she was often visible in the milieu and was 
appropriate in her interaction with peers and staff without ever 
requiring restraint or seclusion. 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s family was not significantly involved in the 
patients’ treatment and discharge planning because family lives 
in ___. However, patient was in contact with her mother 
throughout treatment and was provided with the opportunity to 
discuss the patient’s diagnosis and treatment with the primary 
treatment team. The patient’s family was supportive of the 
patient’s treatment and aftercare plan.  

#) INTERVENTIONS

- Medications: 
  -- Escitalopram 5 mg QHS
  -- Hydroxyzine 25 mg BID PRN for anxiety
  -- Ramelteon 8 mg QHS PRN for insomnia
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Behavioral Interventions: encouraged outpatient therapy and 
psychiatry f/u, encouraged use of coping mechanism
- Guardianships: N/A
- Aftercare/transitional issue:
[ ] Recommend patient pursues neuropsychological testing as 
outpatient to provide diagnostic clarify regarding possible 
learning disorder and inform patient's eligibility for learning 
accommodations at ___ 
[ ] Recommend individual DBT given patient's likely diagnosis of 
borderline personality disorder
[ ] Please continue to assess patient's response to escitalopram 
and monitor for symptoms of mania/suicidality considering her 
recent suicide attempt and past history of poor affect 
regulation

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
recent suicide attempt. Her static factors noted at that time 
include history of abuse, chronic mental illness, younger age, 
single relationship status. Her modifiable risk factors included 
lack of outpatient providers, no psychotropic medication 
regimen, acute academic stressors,
impulsivity, limited insight, and poor distress tolerance. The 
modifiable risk factors were addressed during hospitalization 
via medication management, psychotherapeutic intervention, and 
aftercare coordination.  Finally, the patient is being 
discharged with many protective risk factors, including intact 
reality testing,
lack of substance use, and lack of access to lethal weapons. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Escitalopram Oxalate 5 mg PO QHS 
RX *escitalopram oxalate 5 mg 1 tablet(s) by mouth QHS (every 
night) Disp #*14 Tablet Refills:*0 
2.  HydrOXYzine 25 mg PO BID:PRN insomnia/anxiety/agitation 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth BID PRN (twice daily 
as needed) Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Borderline Personality Disorder
Unspecified Anxiety Disorder
Unspecified Learning Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
During the interview on ___, Ms. ___ denied any new 
complains. She expressed wish to be discharged today, her three 
day notice is expiring on ___. She clearly denied S/H/I. 
She reported: 'I still have things to do'. she is interested in 
continuing her studies. She reported about positive plans for 
future: she would like to be 'more independent' and 'develop 
healthy relationships'. Pt was able to discuss appropriate steps 
in case of emergency (calling relatives, providers, calling 911 
or presenting to the ED).

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___